US08728772B2
L-Lysine Production Culture Using Fat-and-Oil Hydrolysate Derived from Nannochloris sp. as the Carbon Source
The glycerol stocks of the Escherichia coli WC196ΔcadAΔldcC/pCABD2 strain were thawed, 100 μL of each was uniformly applied to an L-plate containing 25 mg/L of streptomycin, and culture was performed at 37° C. for 20 hours. The cells in an amount of about ⅛ of the cells obtained on one plate were inoculated in 20 mL of the fermentation medium described below containing 25 mg/L of streptomycin in a Sakaguchi flask, and cultured at 37° C. for 16 hours or 20 hours on a reciprocally shaking culture apparatus. Each of the samples derived from the alga obtained in of Example 7 (2) was suspended in distilled water, Tween 80 was added to the suspension at a concentration of 1%, and the mixture was adjusted to pH 7.0 with 3 N KOH, autoclaved at 120° C. for 20 minutes, and used as the carbon source solution. The medium composition used for the culture is shown below. The hydrolysate of the fat-and-oil fraction derived from the alga, or the water-soluble fraction derived from the alga was used as the carbon source. The totals of the measured aliphatic acid concentration and glycerol concentration of the carbon sources are indicated.

reactant | glycerol | OCC(O)CO | C3H8O3
reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | KOH | 3 N | [OH-].[K+]
solvent | water | O | H2O
product | L-Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
